US04421754
21.4 g of the resulting 4-(4-benzoylbutyl)-1-(ethoxycarbonylamino)piperazine was dissolved in 180 ml of ethanol, and a solution of 36.2 g of potassium hydroxide in 36 ml of water was added. The mixture was heated under reflux for 3 hours. The reaction mixture was cooled, and 136 ml of 4N hydrochloric acid was added to form a 4-(4-benzoylbutyl)-1-aminopiperazine solution.

reactant | 4-(4-benzoylbutyl)-1-(ethoxycarbonylamino)piperazine | 21.4 g | C(C1=CC=CC=C1)(=O)CCCCN1CCN(CC1)NC(=O)OCC | C18H27N3O3
reactant | potassium hydroxide | 36.2 g | [OH-].[K+]
reactant | hydrochloric acid | 4N, 136 ml | Cl | ClH
solvent | ethanol | 180 ml | C(C)O | C2H6O
solvent | water | 36 ml | O | H2O
product | 4-(4-benzoylbutyl)-1-aminopiperazine | C(C1=CC=CC=C1)(=O)CCCCN1CCN(CC1)N | C15H23N3O
